US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-cyano-phenol to give 4-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-benzonitrile. LC-MS m/e 328(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 4-cyano-phenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
product | 4-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yloxy]-benzonitrile | N1N=C(C=C1)NC=1N=C(C2=CC=CC=C2C1)OC1=CC=C(C#N)C=C1 | C19H13N5O
